US09107411B2
Ethyl 6-chloro-2-({2,2,2-trifluoro-1-[3-(trifluoromethyl)phenyl]ethyl}carbamoyl)-1H-indole-5-carboxylate (2.90 g, 5.0 mmol, 85% pure) was dissolved in 5 ml of dichloromethane and a solution of boron tribromide in dichloromethane (27.5 ml, 27.5 mmol) was added dropwise at −10° C. The reaction mixture was stirred at −10° C. for 1 h and then at room temperature for 2 h. Water was added and the precipitated solid was filtered off with suction and dried. 1.85 g (79% of theory) of 6-chloro-2-({2,2,2-trifluoro-1-[3-(trifluoromethyl)phenyl]ethyl}carbamoyl)-1H-indole-5-carboxylic acid were obtained.

reactant | Ethyl 6-chloro-2-({2,2,2-trifluoro-1-[3-(trifluoromethyl)phenyl]ethyl}carbamoyl)-1H-indole-5-carboxylate | 5.0 mmol, 2.90 g | ClC1=C(C=C2C=C(NC2=C1)C(NC(C(F)(F)F)C1=CC(=CC=C1)C(F)(F)F)=O)C(=O)OCC | C21H15ClF6N2O3
reactant | boron tribromide | B(Br)(Br)Br | BBr3
reactant | Water | O | H2O
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 27.5 mmol, 27.5 ml | ClCCl | CH2Cl2
product | 6-chloro-2-({2,2,2-trifluoro-1-[3-(trifluoromethyl)phenyl]ethyl}carbamoyl)-1H-indole-5-carboxylic acid | 1.85 g, 79% | ClC1=C(C=C2C=C(NC2=C1)C(NC(C(F)(F)F)C1=CC(=CC=C1)C(F)(F)F)=O)C(=O)O | C19H11ClF6N2O3
